US08242280B2
To a solution of (3-Bromo-phenyl)-oxo-acetic acid ethyl ester (2.5 g, 9.8 mmol) in ether (20 mL) at 0° C. was added methyl magnesium bromide (10.8 mmol, 3 M in ether, 3.6 mL) with stirring. The reaction was stirred at 0° C. for 15 min. Water was added and the crude partitioned between ethyl acetate and water. The aqueous layer was extracted three times with ethyl acetate and the combined organic layers were washed with brine, dried over sodium sulfate and evaporated. The resulting crude was purified by flash chromatography on silica gel using a gradient of ethyl acetate in hexane to afford 2-(3-bromo-phenyl)-2-hydroxy-propionic acid ethyl ester as a colorless liquid. (1.87 g, 70% yield). MS: m/z 273 (M+H+).

reactant | (3-Bromo-phenyl)-oxo-acetic acid ethyl ester | 9.8 mmol, 2.5 g | C(C)OC(C(=O)C1=CC(=CC=C1)Br)=O | C10H9BrO3
reactant | methyl magnesium bromide | 10.8 mmol, 3 M, 3.6 mL | C[Mg]Br
reactant | Water | O | H2O
solvent | ether | 20 mL | CCOCC | C4H10O
product | 2-(3-bromo-phenyl)-2-hydroxy-propionic acid ethyl ester | 70% yield | C(C)OC(C(C)(O)C1=CC(=CC=C1)Br)=O | C11H13BrO3
